US08207134B2
2) Synthesis of (2-bromo-5-fluoro-4-hydroxymethyl-phenyl)-methanol
5-Bromo-2-fluoro-4-hydroxymethyl-benzaldehyde (604.3 mg, 2.59 mmol) was dissolved in methanol (5 mL). To the resultant solution was added sodium borohydride (98.1 mg, 2.59 mmol) at 0° C. After stirring for 10 minutes, about 3 mL of methanol was removed by distillation. Water was added to the solution, and the resultant mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel flash column chromatography (developing solution methanol:dichloromethane (3:100)), to thereby obtain the titled compound (247.3 mg, 43%).

reactant | 5-Bromo-2-fluoro-4-hydroxymethyl-benzaldehyde | 2.59 mmol, 604.3 mg | BrC=1C(=CC(=C(C=O)C1)F)CO | C8H6BrFO2
reactant | sodium borohydride | 2.59 mmol, 98.1 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (2-bromo-5-fluoro-4-hydroxymethyl-phenyl)-methanol | 247.3 mg, 43% | BrC1=C(C=C(C(=C1)CO)F)CO | C8H8BrFO2
